US09108936B2
A solution of 4-(3-isopropenyl-5-methoxy-4-nitro-phenyl)-morpholine (3.0 g, 10.7 mmol) in methanol (170 ml) is degassed and flushed with argon for 20 min. To the reaction mixture is added 10% palladium on carbon (1.1 g) and the resulting mixture is hydrogenated in a par shaker (50 psi) for 16 h. After completion of reaction (monitored by TLC), the mixture is filtered through a pad of celite. The filtrate is concentrated in vacuo yielding (2-isopropyl-6-methoxy-4-morpholin-4-yl-phenyl)-amine. The crude material is used in the next step without further purification (2.3 g, 9.2 mmol, 86%).

reactant | 4-(3-isopropenyl-5-methoxy-4-nitro-phenyl)-morpholine | 10.7 mmol, 3.0 g | C(=C)(C)C=1C=C(C=C(C1[N+](=O)[O-])OC)N1CCOCC1 | C14H18N2O4
solvent | methanol | 170 ml | CO | CH4O
product | (2-isopropyl-6-methoxy-4-morpholin-4-yl-phenyl)-amine | C(C)(C)C1=C(C(=CC(=C1)N1CCOCC1)OC)N | C14H22N2O2
